US06350749B1
To a solution of 20% sodium ethoxide in ethanol (4.3 g) was added at room temperature diethyl malonate (10.1 g), and then added little by little 4-(2-chloro-5-methylphenyl)-3-buten-2-one (18.9 g). The mixture was stirred at room temperature for 30 minutes, refluxed for 2 hours and cooled. The solvent was evaporated, and to the residue was added water. The aqueous layer was washed with ethyl acetate and concentrated. To the residue was added 2M sodium hydroxide (33 ml), and the mixture was refluxed for 2 hours and cooled. To the mixture was added 2.5M sulfuric acid (33 ml) for 15 minutes, and the mixture was refluxed for 30 minutes and cooled. Precipitated crystals were filtered and washed with water and isopropylether to give 5-(2-chloro-5-methylphenyl)cyclohexane-1,3-dione (7.8 g) as colorless crystals.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | diethyl malonate | 10.1 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 4-(2-chloro-5-methylphenyl)-3-buten-2-one | 18.9 g | ClC1=C(C=C(C=C1)C)C=CC(C)=O | C11H11ClO
solvent | ethanol | 4.3 g | C(C)O | C2H6O
product | 5-(2-chloro-5-methylphenyl)cyclohexane-1,3-dione | 7.8 g | ClC1=C(C=C(C=C1)C)C1CC(CC(C1)=O)=O | C13H13ClO2
